US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride
To a refluxing mixture of 1-(3-aminopropyl)piperidine (284 mg, 2 mmol), sulfurous acid (6% SO2 aqueous solution) (1.1 ml) and zinc dust (200 mg) in methanol (2.5 ml) was added dropwise over a period of 1 hour a solution of 5-methyl-1-phenylhexane-1,2-dione [bp: 104°-107° C./2 mmHg; prepared from 2-bromo-5-methyl-1-phenylhexan-1-one by a known method {N. Kornblum and H. W. Frazier: J. Am. Chem. Soc., 88, 865 (1966)}] (275 mg, 1.35 mmol) in methanol (1.0 ml). Thereafter, 200 mg of zinc dust and 1.8 ml of sulfurous acid were freshly added to the mixture and the resulting mixture was refluxed for further 2 hours. After cooling, methanol was added to the mixture and insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure and the residue was dissolved in 2N-HCl. The resulting solution was washed three times with ether and then basified with an aqueous sodium hydroxide solution, followed by extraction with ether. The combined ethereal extract was washed twice with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure to give 0.43 g of oily matter. To an ethanol solution of the matter was added 6N-HCl in EtOH (0.64 ml) and the solution was allowed to stand. Precipitated crystals were collected by filtration and washed with ethanol to obtain 170 mg of the title compound as white crystals (yield: 31%).

reactant | 1-(3-aminopropyl)piperidine | 2 mmol, 284 mg | NCCCN1CCCCC1 | C8H18N2
reactant | sulfurous acid | 1.1 ml | S(O)(O)=O | H2O3S
reactant | 5-methyl-1-phenylhexane-1,2-dione | CC(CCC(C(=O)C1=CC=CC=C1)=O)C | C13H16O2
reactant | 2-bromo-5-methyl-1-phenylhexan-1-one | BrC(C(=O)C1=CC=CC=C1)CCC(C)C | C13H17BrO
reactant | sulfurous acid | 1.8 ml | S(O)(O)=O | H2O3S
reactant | HCl | Cl | ClH
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 1.0 ml | CO | CH4O
solvent | EtOH | 0.64 ml | CCO | C2H6O
catalyst | zinc | 200 mg | [Zn] | Zn
catalyst | zinc | 200 mg | [Zn] | Zn
solvent | ethanol | C(C)O | C2H6O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride | 170 mg, yield: 31% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C21H36N2O.2ClH/c1-18(2)12-13-20(21(24)19-10-5-3-6-11-19)22-14-9-17-23-15-7-4-8-16-23;;/h3,5-6,10-11,18,20-22,24H,4,7-9,12-17H2,1-2H3;2*1H
